US08034558B2
4-Fluoroaniline (1.86 gm; 20 mmol), 2-chlorobenzoic acid (1.56 gm; 10 mmol), ethylene glycol (5 ml) and anhydrous sodium carbonate (1.1 gm; 10 mmol) were placed in a reaction vessel and stirred until effervescence ceased. Cupric chloride (100 mg; 0.75 mmol) dissolved in 2 ml of water was added to the reaction mixture which was then heated to 125° C. for 6 hrs. The reaction was allowed to cool and water (30 ml) and charcoal were added. The mixture was filtered and then acidified to pH 2 with conc. hydrochloric acid. The precipitate was collected by filtration, washed with water and then re-dissolved in 1M sodium hydroxide solution. Material was re-precipitated by the addition of acetic acid, filtered off, washed with aqueous acetic acid, then water and finally dried under vacuum over phosphorous pentoxide to give 862 mg (37%) of N-(4-fluorophenyl)anthranilic acid.

reactant | 4-Fluoroaniline | 20 mmol, 1.86 gm | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 2-chlorobenzoic acid | 10 mmol, 1.56 gm | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | sodium carbonate | 10 mmol, 1.1 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | charcoal | C | CH4
solvent | water | 2 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | ethylene glycol | 5 ml | C(CO)O | C2H6O2
product | N-(4-fluorophenyl)anthranilic acid | 862 mg, 37% | FC1=CC=C(C=C1)NC=1C(C(=O)O)=CC=CC1 | C13H10FNO2
